US06455521B1
Ethyl 2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate (24.5 g) and 1-methylpiperazine (135 ml) were dissolved in anisole (400 ml), and titanium tetrachloride (21 ml) was added dropwise while stirring the mixture at room temperature. After the completion of the dropwise addition, the mixture was stirred at 140° C. for 17 hours. The reaction mixture was cooled to 80° C. and poured into ice water. The resultant precipitate was filtrated and the filtrate was extracted with ethyl acetate, washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol) and the obtained oily substance (17 g) was dissolved in ethyl acetate (400 ml). Thereto was added a solution of maleic acid (5.9 g) in ethyl acetate (100 ml) and ethanol (20 ml). The precipitated crystals were collected by filtration and recrystallized from ethanol to give 8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[I]benzothieno[2,3-b][1,5]benzodiazepine.1 maleate (10.2 g).

reactant | Ethyl 2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate | 24.5 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C=C1)F | C17H15FN2O2S
reactant | 1-methylpiperazine | 135 ml | CN1CCNCC1 | C5H12N2
solvent | anisole | 400 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | 21 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[I]benzothieno[2,3-b][1,5]benzodiazepine | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C)C=C1 | C20H19FN4S
